Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
ACE Inhibitors
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male who was the restrained passenger when a chair 
car went off the road and collided with trees and telephone 
poles. Single car accident reported speed was 30 miles an hour, 
further details regarding vehicle damage not
available. Patient was reportedly restrained and did not move 
during the accident. He was taken to ___ where he 
was found to have a splenic laceration and free fluid in his 
abdomen on pan scan, and left-sided rib
fractures on pan scan. Transferred to ___ for trauma 
surgery evaluation. Here, pt is alert, at baseline mental 
status, says "no" when asked about pain to chest, abdomen, head, 
neck, or extremities.
 
Past Medical History:
Past Medical History:
DM, HTN, obesity, prior SBO

Past Surgical History:
Exploratory laparotomy, lysis of adhesions (Dr. ___, ___
laparoscopic gastric bypass ___ @ ___) 
Lap
Band placement ___
Lap band removal
___, laparoscopic cholecystectomy (remote)

 
Social History:
___
Family History:
aunt with breast cancer, no family history of GI cancers 
 
Physical Exam:
Admission Physical Exam:
Vitals: 35.4 | 74 | 152/77 | 24 | 96 RA
GEN: A&Ox3, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, mildly distended, diffusely tender, very tender mid
and L abdomen, voluntary guarding, no palpable masses
Ext: No ___ edema, ___ warm and well perfused
Neuro: non-focal

Discharge Physical Exam:
98.4 PO 120 / 78 R Lying 100 18 95 Ra 
GEN: Alert, pleasant and interactive.
HEENT: PERRL, EOMI. mucus membranes pink/moist.
CV: RRR
PULM: clear bilaterally.
ABD: Soft, non-tender, non-distended.
EXT: Warm and dry. 
NEURO: A&Ox3. Follows commands and moves all extremities equal 
and strong. Speech is clear and fluent. 
 
Pertinent Results:
___ 06:37AM BLOOD WBC-6.1 RBC-2.68* Hgb-8.3* Hct-25.3* 
MCV-94 MCH-31.0 MCHC-32.8 RDW-15.3 RDWSD-52.7* Plt ___
___ 03:11PM BLOOD WBC-5.7 RBC-2.78* Hgb-8.4* Hct-26.6* 
MCV-96 MCH-30.2 MCHC-31.6* RDW-15.3 RDWSD-53.5* Plt ___
___ 05:50AM BLOOD WBC-5.7 RBC-2.72* Hgb-8.2* Hct-25.6* 
MCV-94 MCH-30.1 MCHC-32.0 RDW-15.0 RDWSD-51.8* Plt ___
___ 10:43PM BLOOD WBC-7.1 RBC-3.22* Hgb-9.7* Hct-30.4* 
MCV-94 MCH-30.1 MCHC-31.9* RDW-15.0 RDWSD-51.8* Plt ___
___ 07:58PM BLOOD WBC-6.3 RBC-3.01* Hgb-9.1* Hct-28.2* 
MCV-94 MCH-30.2 MCHC-32.3 RDW-15.0 RDWSD-52.0* Plt ___
___ 04:15PM BLOOD WBC-8.5 RBC-3.27* Hgb-10.0* Hct-31.0* 
MCV-95 MCH-30.6 MCHC-32.3 RDW-15.1 RDWSD-52.2* Plt ___
___ 04:15PM BLOOD ___ PTT-24.9* ___
___ 06:37AM BLOOD Glucose-94 UreaN-19 Creat-1.0 Na-139 
K-4.2 Cl-104 HCO3-25 AnGap-10
___ 05:50AM BLOOD Glucose-101* UreaN-18 Creat-1.0 Na-143 
K-4.4 Cl-108 HCO3-24 AnGap-11
___ 04:15PM BLOOD Lipase-22
___ 06:37AM BLOOD Calcium-8.8 Phos-2.9 Mg-1.8
___ 04:30PM BLOOD Glucose-107* Lactate-1.3 Na-136 K-4.4 
Cl-103 calHCO3-27
___ 10:43PM BLOOD Hgb-10.0* calcHCT-30
___ 04:15PM URINE Color-RED* Appear-Cloudy* Sp ___
___ 04:15PM URINE Blood-MOD* Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG*
___ 04:15PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG

___ CXR:
No definite acute intrathoracic process.
 
Brief Hospital Course:
Mr. ___ is an ___ yo M with developmental delay who 
presented to outside hospital after a motor vehicle crash 
sustaining left sided rib fractures ___, Grade II splenic 
laceration, and found to have a malpositioned chronic foley 
catheter. He was admitted to the Acute Care Trauma Surgery 
service for pain control, respiratory monitoring, serial 
hematocrits, and urological evaluation.

The foley catheter was repositioned upon arrival and the patient 
developed gross hematuria. Blood counts were monitored and 
remained stable. Foley catheter output was monitored and 
cleared. He was evaluated by urology who recommended outpatient 
urological follow up with his urologist for chronic foley 
management. Pain was controlled with oral medications. He 
remained stable from a hemodynamical standpoint; pulmonary 
toileting and incentive spirometry were encouraged. He remained 
stable from a respiratory standpoint. He tolerated a regular 
diet without difficulty. Blood counts were montitored and 
remained stable. He was evaluated by physical therapy and able 
to ambulate independently. 

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a diet, 
ambulating, chronic foley was in place and draining clear urine, 
and pain was well controlled. The patient and care taker 
received discharge teaching and follow-up instructions with 
understanding verbalized and agreement with the discharge plan.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyanocobalamin 1000 mcg IM/SC QMONTH 
2. Aspirin 81 mg PO DAILY 
3. Vitamin D ___ UNIT PO 1X/WEEK (___) 
4. Docusate Sodium 100 mg PO DAILY 
5. Finasteride 5 mg PO QHS 
6. Tamsulosin 0.4 mg PO QHS 
7. Simvastatin 20 mg PO QPM 
8. BusPIRone 20 mg PO BID 
9. Calcium Carbonate 500 mg PO BID 
10. Acetaminophen 650 mg PO Q4H:PRN Pain - Mild 
11. Milk of Magnesia 30 mL PO Q6H:PRN no bm x 3 days 
12. Fleet Enema (Saline) 1 Enema PR ONCE constipation 
13. Bisacodyl 10 mg PR QHS:PRN constipation 
14. Sodium Chloride 0.9%  Flush 60 mL IV PRN foley catheter 
blockage 
15. Acidophilus Probiotic (acidophilus-pectin, citrus) 100 
million cell-10 mg oral ASDIR 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild  
2.  Acidophilus Probiotic (acidophilus-pectin, citrus) 100 
million cell-10 mg oral ASDIR  
3.  Bisacodyl 10 mg PR QHS:PRN constipation  
4.  BusPIRone 20 mg PO BID  
5.  Calcium Carbonate 500 mg PO BID  
6.  Cyanocobalamin 1000 mcg IM/SC QMONTH  
7.  Docusate Sodium 100 mg PO DAILY  
8.  Finasteride 5 mg PO QHS  
9.  Fleet Enema (Saline) 1 Enema PR ONCE constipation  
10.  Milk of Magnesia 30 mL PO Q6H:PRN no bm x 3 days  
11.  Simvastatin 20 mg PO QPM  
12.  Sodium Chloride 0.9%  Flush 60 mL IV PRN foley catheter 
blockage  
13.  Tamsulosin 0.4 mg PO QHS  
14.  Vitamin D ___ UNIT PO 1X/WEEK (___)  
15. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until cleared to take by your PCP.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Grade II splenic laceration
Left crib fractures ___
Foley catheter malposition

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Acute Care Surgery Service on ___ 
after a motor vehicle crash sustaining an injury to your spleen 
and left sided rib fractures. You were closely monitored for 
signs of bleed and your blood levels remained stable. You had a 
CAT scan that showed your foley catheter was not in the bladder 
and therefore it was replaced. You were evaluated by the urology 
team who determined the position is good and you can continue to 
follow up with Dr. ___ ongoing management. You have some 
blood in the urine and this is normal for about 2 weeks. If you 
notice the color getting darker, more bloody, or your urine 
output decreases you should call your urologists office right 
away.
You are now doing better, tolerating a regular diet, pain 
control is improved, and you are ready to be discharged from the 
hospital to continue your recovery.

Please note the following discharge instructions:

* Your injury caused Left sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

General Discharge Instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up. 

Do no take NSAIDs such as aspirin, ibuprofen, or naproxen until 
cleared to due so by your primary care provider. 

Avoid contact sports or activates until cleared by your primary 
care provider. 

 
Followup Instructions:
___